US07459448B2
5-Iodo-2-methyl-phenylamine (b)
To a solution of 4-iodo-1-methyl-2-nitro-benzene (25.0 g, 107 mmol) in 300 mL of ethanol was added sulfided platinum (3.00 g) and ammonium formate (20.3 g, 321 mmol). The mixture was heated to reflux for 12 h and then cooled to 22° C., filtered through Celite® and concentrated in vacuo. The resulting residue was diluted with H2O (300 mL) and extracted with 3×200 mL CH2Cl2. The organic fractions were combined, washed with brine, dried over Na2SO4 and concentrated in vacuo to give b (21.1 g, 95%): MS m/z═234 (M+H).

reactant | 4-iodo-1-methyl-2-nitro-benzene | 107 mmol, 25.0 g | IC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6INO2
reactant | ammonium formate | 321 mmol, 20.3 g | C(=O)[O-].[NH4+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | platinum | 3.00 g | [Pt] | Pt
product | 5-Iodo-2-methyl-phenylamine | IC=1C=CC(=C(C1)N)C | C7H8IN
